US06521643B1
To a stirred solution of ammonium isothiocyanate (142 mg) in acetone (3 ml) was added benzoyl chloride (0.199 ml) at 50° C., and the mixture was stirred at 50° C. for 10 minutes. To the resultant suspension was added a solution of 3-(4-methylpyridin-2-yl)aniline (300 mg) in acetone (6 ml) dropwise, and the mixture was stirred at 60° C. for 2 hours. Water was added to the reaction mixture, and the precipitate was collected by filtration and dried to give N-(3-(4-methylpyridin-2-yl)phenyl)-N′-benzoylthiourea (557 mg).

reactant | ammonium isothiocyanate | 142 mg | [N-]=C=S.[NH4+]
reactant | benzoyl chloride | 0.199 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 3-(4-methylpyridin-2-yl)aniline | 300 mg | CC1=CC(=NC=C1)C=1C=C(N)C=CC1 | C12H12N2
reactant | Water | O | H2O
solvent | acetone | 3 ml | CC(=O)C | C3H6O
solvent | acetone | 6 ml | CC(=O)C | C3H6O
product | N-(3-(4-methylpyridin-2-yl)phenyl)-N′-benzoylthiourea | 557 mg | CC1=CC(=NC=C1)C=1C=C(C=CC1)NC(=S)NC(C1=CC=CC=C1)=O | C20H17N3OS
